US08466176B2
To a stirred solution of N-hydroxy-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine (1.00 g, 3.73 mmol) in acetonitrile (60 mL), were added cesium carbonate (2.55 g, 7.83 mmol), potassium iodide (310 mg, 1.86 mmol) and 2-bromo-4-bromomethyl-thiazole (1.05 g, 4.10 mmol). The resulting suspension was stirred at 25° C. for 6 h. The suspension was filtered, the solids washed with ethyl acetate and dichloromethane and the filtrate was concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL), washed with water, dried over MgSO4 concentrated in vacuo. Purification on silica gel afforded N-[(2-bromo-1,3-thiazol-4-yl)methoxy]-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine as an oil that solidified on standing after 2 days [1.49 g, yield 94%; HPLC/MS: m/z=425 (M+H); logP(HCOOH)=3.55].

reactant | N-hydroxy-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine | 3.73 mmol, 1.00 g | ON=C(C1=NN=NN1C)C1=CC(=CC=C1)SC | C10H11N5OS
reactant | cesium carbonate | 7.83 mmol, 2.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 1.86 mmol, 310 mg | [I-].[K+]
reactant | 2-bromo-4-bromomethyl-thiazole | 4.10 mmol, 1.05 g | BrC=1SC=C(N1)CBr | C4H3Br2NS
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | N-[(2-bromo-1,3-thiazol-4-yl)methoxy]-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine | yield 94% | BrC=1SC=C(N1)CON=C(C1=NN=NN1C)C1=CC(=CC=C1)SC | C14H13BrN6OS2
